US04491580
Triethylamine (5.74 g, 56.8 mmol) was added by syringe to a solution of (S)-4-hydroxymethylazetidin-2-one (3.79 g, 37.5 mmol) and benzenesulfonylchloride (10.0 g, 56.8 mmol) in dry methylene chloride (38 ml) at 0° C. The resulting mixture was stirred at 0° C. for 4 hrs., then diluted with methylene chloride (100 ml), washed with water (50 ml) and brine (25 ml) and dried over magnesium sulfate. Solvents were removed in vacuo to give a brown gum which was chromatographed on silica gel (100 g) (ethylacetate) to yield 6.6 g (73%) of (S)-4-benzenesulfonyloxymethyl azetidin-2-one as a white solid, m.p. 102°-105° C.

reactant | Triethylamine | 56.8 mmol, 5.74 g | C(C)N(CC)CC | C6H15N
reactant | (S)-4-hydroxymethylazetidin-2-one | 37.5 mmol, 3.79 g | OC[C@@H]1CC(N1)=O | C4H7NO2
reactant | benzenesulfonylchloride | 56.8 mmol, 10.0 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 38 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-benzenesulfonyloxymethyl azetidin-2-one | 6.6 g, 73% | C1(=CC=CC=C1)S(=O)(=O)OC[C@@H]1CC(N1)=O | C10H11NO4S
